US08207168B2
To a stirred solution of 4,5-dichloro-2-methoxymethyl-2H-pyridazin-3one (1.00 g, 4.78 mmol) in 1,4-dioxane (25 mL) at room temperature was added sodium methoxide (271 mg, 5.02 mmol). After 19 h, the reaction was added additional 271 mg of sodium methoxide and was continued to stir for 6 h. The reaction was filtered and the filtrate was concentrated to give 915 mg (93% crude) 5-chloro-4-methoxy-2-methoxymethyl-2H-pyridazin-3-one.

reactant | 4,5-dichloro-2-methoxymethyl-2H-pyridazin-3one | 4.78 mmol, 1.00 g | ClC=1C(N(N=CC1Cl)COC)=O | C6H6Cl2N2O2
reactant | sodium methoxide | 5.02 mmol, 271 mg | C[O-].[Na+]
reactant | sodium methoxide | 271 mg | C[O-].[Na+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-chloro-4-methoxy-2-methoxymethyl-2H-pyridazin-3-one | 915 mg, 93% | ClC1=C(C(N(N=C1)COC)=O)OC | C7H9ClN2O3
